* CLASSIC BANDGAP REFERENCE - 1.25V OUTPUT
.TEMP 27
.OPTIONS ABSTOL=1e-12 RELTOL=1e-6

VDD VDD 0 DC 3.3

* Classic bandgap configuration with op-amp
Q1 N1 N1 0 QNPN 1
Q2 N2 N1 0 QNPN 8

* Equal currents through both branches
R1 VDD N3 12K
R2 VDD N4 12K

* Op-amp to force V(N3) = V(N4)
EOPAMP N5 0 N4 N3 1e6

* Current mirror
M1 N3 N5 VDD VDD PMOS W=20U L=1U
M2 N4 N5 VDD VDD PMOS W=20U L=1U

* Bandgap output - THIS is the key difference
R3 N4 VBGR 8K
R4 VBGR 0 4K

.MODEL QNPN NPN(IS=1E-16 BF=100)
.MODEL PMOS PMOS (VTO=-0.7 KP=50U LAMBDA=0.05)

.DC TEMP -40 125 5
.PRINT DC V(VBGR) V(N3) V(N4)

.END